US07309701B2
6-(4-Hydroxy-3-methoxy-phenyl)-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide
70.7 mg of 6-(4-hydroxy-3-methoxy-phenyl)-3-oxo-2-(2-trimethylsilanyl-ethoxymethyl)-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide and 60 μl ethandithiol and 60 μl water were dissolved in 750 μl TFA and stirred at room temperature for 3 h. Afterwards, the solvent was distilled off and the raw product purified by HPLC (column 125×25, PurospherStar RP18 endcapped, 5 μm; solvent: A: water (0.05% HCOOH), B: acetonitrile (0.05% HCOOH)).

reactant | 6-(4-hydroxy-3-methoxy-phenyl)-3-oxo-2-(2-trimethylsilanyl-ethoxymethyl)-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide | 70.7 mg | ClC1=CC=C(CNC(=O)C=2C(N(N=C(C2)C2=CC(=C(C=C2)O)OC)COCC[Si](C)(C)C)=O)C=C1 | C25H30ClN3O5Si
reactant | ethandithiol | 60 μl | C(C)(S)S | C2H6S2
reactant | water | 60 μl | O | H2O
solvent | TFA | 750 μl | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(4-Hydroxy-3-methoxy-phenyl)-3-oxo-2,3-dihydro-pyridazine-4-carboxylic acid 4-chloro-benzyl amide | ClC1=CC=C(CNC(=O)C=2C(NN=C(C2)C2=CC(=C(C=C2)O)OC)=O)C=C1 | C19H16ClN3O4
